US07329662B2
5-(4-Trifluoromethyl-phenyl)-3-(2-hydroxymethyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
To a stirred solution of 4-[5-(4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-yl]-pyridin-2-ylmethyl acetate (0.16 g, 0.33 mmol) in MeOH (1 ml) was added at room temperature NaOMe (5.4M in MeOH, 0.2 ml). The reaction mixture was stirred for 17 h, poured into water (40 ml) and extracted with dichloromethane (3 times 40 ml). The combined organic layers were washed with brine (100 ml), dried (MgSO4) and evaporated. The crude product was further purified by column chromatography on silica gel (ethyl acetate) to yield the title compound (112 mg, 78%) as an orange solid. MS (ISP) 439.3 [(M+H)+]; mp 2102° C.

reactant | 4-[5-(4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-yl]-pyridin-2-ylmethyl acetate | 0.33 mmol, 0.16 g | C(C)(=O)OCC1=NC=CC(=C1)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C22H14F6N4O2
reactant | NaOMe | 5.4M, 0.2 ml | C[O-].[Na+]
reactant | water | 40 ml | O | H2O
solvent | MeOH | 1 ml | CO | CH4O
product | 5-(4-Trifluoromethyl-phenyl)-3-(2-hydroxymethyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 112 mg, 78% | FC(C1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC(=NC=C2)CO)(F)F | C20H12F6N4O
